US08629137B2
3-[6′-benzyloxy-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
991 mg (3.60 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one and 500 mg (1.22 mmol) 6-(2-benzyloxy-6-chloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one were combined in 10 mL NMP and stirred overnight at 120° C. The reaction mixture was purified by preparative HPLC-MS. The fractions containing the product were combined and evaporated down.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 3.60 mmol, 991 mg | COC=1C=CC2=C(CCN(C(N2)=O)C2CCNCC2)C1 | C15H21N3O2
reactant | 6-(2-benzyloxy-6-chloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 1.22 mmol, 500 mg | C(C1=CC=CC=C1)OC1=NC(=CC(=C1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C)Cl | C22H17ClN2O4
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | 3-[6′-benzyloxy-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | C(C1=CC=CC=C1)OC1=CC(=CC(=N1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O)C(=O)C2=CC1=C(N(C(O1)=O)C)C(=C2)C | C37H37N5O6
